US07737166B2
5-Bromo-4-fluoro-2-nitrobenzonitrile (I-240)
3-Bromo-4-fluorobenzonitrile (25 g, 0.125 mol) was dissolved in concentrated sulfuric acid (200 ml), and at 0° C., fuming nitric acid was dropwise added at 0° C., taking 1 hour. After stirred for 30 minutes at the same temperature, this was heated up to room temperature, taking 1.5 hours. This was gradually poured into ice. The formed precipitate was collected by filtration with washing with water, and dried under reduced pressure. The collected yellow powder was fractionated with chloroform and aqueous 1 M sodium hydroxide solution. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate. The solvent was evaporated away, and the resulting residue was well dried under reduced pressure to obtain the entitled compound (14.7 g, 48%) as a yellow powder.

reactant | 3-Bromo-4-fluorobenzonitrile | 0.125 mol, 25 g | BrC=1C=C(C#N)C=CC1F | C7H3BrFN
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-4-fluoro-2-nitrobenzonitrile | 14.7 g, 48% | BrC=1C(=CC(=C(C#N)C1)[N+](=O)[O-])F | C7H2BrFN2O2
